US06440995B1
(RS)-1-Amino-3-[2-(3,4-dichloro-phenyl)-quinolin-4-ylamino]-propan-2-ol hydrochloride
The title compound, m.p. 230-24° C., and MS: m/e=362.1 (M+H+), was prepared from 4-chloro-2-(3,4-dichloro-phenyl)-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-2-(3,4-dichloro-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)Cl)Cl | C15H8Cl3N
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-[2-(3,4-dichloro-phenyl)-quinolin-4-ylamino]-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)Cl)Cl)O | InChI=1S/C18H17Cl2N3O.ClH/c19-14-6-5-11(7-15(14)20)17-8-18(22-10-12(24)9-21)13-3-1-2-4-16(13)23-17;/h1-8,12,24H,9-10,21H2,(H,22,23);1H
